Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20]>>[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10],3.77882103857
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[C:12]([H:13])([H:14])[H:15],4.03584923207
[C:1]#[C:2][C:3]([O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:4]>>[C:1]#[C:2][C@@:3]([H:4])([O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11],-1.12083234875
[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][O:3][C:4](=[C:5][H:6])[C:8]([H:9])([H:10])[H:11].[H:7],5.094633245980001
[H:1][C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[C:6][C:7]([H:8])([H:9])[C:10][O:11][H:12].[H:1][C:2]=[C:3]([H:4])[H:5],0.2126355763089999
[H:1][C:2][O:3][C:4]#[C:6][C:7]([H:8])[O:9][H:10].[H:5]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[O:9][H:10],-4.52979524266
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9])[C:11]([H:12])([H:13])[H:14],4.70969635349
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8],2.2058417608500003
[C:1]=[C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10]1>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10],2.20170846843
[C:3](=[C:4][C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2]>>[H:1][O:2][C:3]([C:4][C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-2.8620201477
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.08741937546
[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7]>>[O:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.036914382780002
[C:4](\[O:5][H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3]/[C:4]([O:5][H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-6.20015470832
[H:1][C:2][C:3]([H:4])[C:5]([H:6])[C:7]([H:8])=[C:9][H:10]>>[C:3]([H:4])#[C:5][H:6].[H:1][C:2][C:7]([H:8])=[C:9][H:10],1.94246317782
[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4]([H:5])[C:6]#[C:7][H:8]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-3.69249087983
[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[O:9][C:10]([H:11])[H:12]>>[C:3](=[C:4]([H:5])[H:6])=[C:7]([H:8])[O:9][C:10]([H:11])[H:12].[H:1][O:2],4.41709016717
[C:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2].[C:3]=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10],7.295818227939999
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],4.29574416403
[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]=[O:3]>>[O:1][C:2](=[O:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-0.14516778722100002
[H:1][O:2][O:3]/[C:4]([H:5])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:6]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.90330546495
[C:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1].[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],5.459448500830001
[C:4]([H:5])=[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-1.3944276615200002
[C:1][C:2]([H:3])([H:4])[C:5]([O:6][H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([O:6][H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],1.0277753927700002
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10][C:12]([H:13])([H:14])[H:15],5.06070138411
[C:4]([H:5])=[C:6]([H:7])[H:8].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])=[C:6]([H:7])[H:8],-6.22375563062
[O:1][C:2](=[O:3])[C:4]([H:5])=[C:6]([H:7])[H:8]>>[C:2](=[O:3])=[C:4]([H:5])[C:6]([H:7])[H:8].[O:1],4.3939667809300005
[H:1][C:2]=[C:3]([H:4])[C@:5]12[O:6][C@:7]1([H:8])[C:9]2[H:10]>>[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])=[C:9][H:10],2.8758786146
[C:10]([H:11])([H:12])[H:13].[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.5478137742
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6].[H:7]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6][H:7],-4.61424771587
